US04775674
N-Cyclohexyl-4-[(2,3-dihydro-1-methyl-2-oxo 1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide
This compound, m.p. 282°-284° C., was prepared analogous to Example 15 from 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid and cyclohexylamine.

reactant | 4-[(2,3-dihydro-1-methyl-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanoic acid | CN1C(NC2=NC=3C=CC(=CC3C=C21)OCCCC(=O)O)=O | C15H15N3O4
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-Cyclohexyl-4-[(2,3-dihydro-1-methyl-2-oxo 1H-imidazo[4,5-b]quinolin-7-yl)oxy]butanamide | C1(CCCCC1)NC(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3C)=O)=O | C21H26N4O3
